US06245769B1
(S)-6-Methyl-3-nitro-4-(1-methoxymethyl-3-methoxypropylamino) pyridone:
1-methoxymethyl-3-methoxypropylamine (4.19 g, 22.3 mmol), and 4-chloro-6-methyl-3-nitropyridone (3.87 g, 22.3 mmol) were mixed in CH3CN (70 mL) and diisopropyl- ethylamine (9.4 mL, 53.6 mmol) was added. The reaction was stirred at 25° C. for 16 h and at reflux for 2.5 h. The solvent was stripped off and the residue was dissolved in CH2Cl2 (150 mL) and the CH2Cl2 was washed with water (80 mL). The water was extracted with CH2Cl2 (50 mL) and the combined organic extracts were dried (MgSO4) and stripped in vacuo. The residue was crystallized from EtOAc and washed with 40% EtOAc/hexanes to give the product, (4.8 g, 75%).

reactant | 1-methoxymethyl-3-methoxypropylamine | 22.3 mmol, 4.19 g | COCC(CCOC)N | C6H15NO2
reactant | 4-chloro-6-methyl-3-nitropyridone | 22.3 mmol, 3.87 g | ClC1=C(C(NC(=C1)C)=O)[N+](=O)[O-] | C6H5ClN2O3
reactant | diisopropyl- ethylamine | 53.6 mmol, 9.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 70 mL | CC#N | C2H3N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (S)-6-Methyl-3-nitro-4-(1-methoxymethyl-3-methoxypropylamino) pyridone | CC1=CC(=C(C(N1)=O)[N+](=O)[O-])N[C@@H](CCOC)COC | C12H19N3O5
